US07842696B2
DIPEA (66 mg, 0.51 mmol) was added to a stirred solution of biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt (90 mg, 0.21 mmol) in DMF (2 mL). HOBT (28 mg, 0.21 mmol) and EDCI.HCl (40 mg, 0.21 mmol) were then added. After 2 minutes 2-bromo-5-methoxy benzoic acid (40 mg, 0.17 mmol) was added and the resulting mixture was stirred overnight. The reaction mixture was diluted with cold water. The product was extracted with ethyl acetate and the ethyl acetate layer was washed with NaHCO3 solution, saturated brine solution, dried over sodium sulphate and concentrated under reduced pressure to afford crude product, which was purified by column chromatography (using silica gel of 160-120 mesh and 2.5% MeOH in chloroform as eluent) to afford 31 mg (34% yield) of biphenyl-4-carboxylic acid {2-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide as a white solid. LC-MS purity: 98.31%, HPLC Purity: 97.73%. 1H NMR: (DMSO) δ 8.7-8.6 (b s, 1H), 8.0 (m, 2H), 7.8 (m, 4H), 7.6-7.4 (m, 4H), 7.0 (m, 2H), 4.2 (m, 2H), 3.8 (s, 3H), 3.4-3.7 (m, 6H), 3.2-3.1 (m, 2H).

reactant | DIPEA | 0.51 mmol, 66 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt | 0.21 mmol, 90 mg | OC(=O)C(F)(F)F.O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1
reactant | HOBT | 0.21 mmol, 28 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.21 mmol, 40 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-bromo-5-methoxy benzoic acid | 0.17 mmol, 40 mg | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylic acid {2-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 31 mg, 34% yield | BrC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=C(C=C1)OC | C27H26BrN3O4
